US04624951
10 g of 3-(3-cyano-4-morpholino-benzoyl)-propionic acid are stirred together with 2.98 g of 35% formaldehyde solution and 76.4 ml of 0.5N sodium hydroxide solution for 16 hours at room temperature. The reaction mixture, whilst being cooled with ice-water and stirred, is then rendered acid with concentrated hydrochloric acid, and is stirred for a further 16 hours at room temperature. Ethyl acetate is afterwards added until two clear phases are formed; the aqueous phase is subsequently separated, and extracted with ethyl acetate. The organic phases are washed twice with 2N sodium carbonate solution, with water and with brine; they are then dried over sodium sulfate and concentrated by evaporation. The 4-(3-cyano-4-morpholino-benzoyl)-butyrolactone obtained as an oily residue is used directly in the following stage.

reactant | 3-(3-cyano-4-morpholino-benzoyl)-propionic acid | 10 g | C(#N)C=1C=C(C(=O)CCC(=O)O)C=CC1N1CCOCC1 | C15H16N2O4
reactant | formaldehyde | 2.98 g | C=O | CH2O
reactant | sodium hydroxide | 0.5N, 76.4 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(3-cyano-4-morpholino-benzoyl)-butyrolactone | C(#N)C=1C=C(C(=O)C2CCC(=O)O2)C=CC1N1CCOCC1 | C16H16N2O4
